US20010007764A1
H-D-Tyr(tBu)-OMe.HCl
10% palladium on charcoal (1.2 g) was added to a solution of Cbz-D-Tyr(tBu)-OMe (10.2 g) in methanol (100 ml) and 4N hydrogen chloride (5 ml). The mixture was hydrogenated at atmospheric pressure at room temperature for 2 hours. The palladium catalyst was removed by filtration. The filtrate was concentrated to a small volume followed by cystallisation from diethyl ether. Yield: 5.87 g. TLC: Rf=0.10, heptane/ethyl acetate 1/1.

reactant | Cbz-D-Tyr(tBu)-OMe | 10.2 g | N([C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C22H27NO5
reactant | hydrogen chloride | 4N, 5 ml | Cl | ClH
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | H-D-Tyr(tBu)-OMe.HCl | N[C@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl | InChI=1S/C14H21NO3.ClH/c1-14(2,3)18-11-7-5-10(6-8-11)9-12(15)13(16)17-4;/h5-8,12H,9,15H2,1-4H3;1H/t12-;/m1./s1
